US09029531B2
Step C: methyl 2-(5-(2-methoxyethoxy)pyridin-2-yl)acetate
To a stirred solution of methyl 2-(5-((tert-butyldimethylsilyl)oxy)pyridin-2-yl)acetate (500 mg, 3 mmol) in MeCN was added Cs2CO3 (1.4 g, 4.5 mmol) followed by 1-bromo-2-methoxyethane (621 mg, 4.5 mmol) at room temperature. The whole mixture was heated to 80° overnight. LC-MS showed desired product. It was filtered, evaporated and purified by a standard method.

reactant | methyl 2-(5-((tert-butyldimethylsilyl)oxy)pyridin-2-yl)acetate | 3 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=NC1)CC(=O)OC | C14H23NO3Si
reactant | Cs2CO3 | 4.5 mmol, 1.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromo-2-methoxyethane | 4.5 mmol, 621 mg | BrCCOC | C3H7BrO
solvent | MeCN | CC#N | C2H3N
product | methyl 2-(5-(2-methoxyethoxy)pyridin-2-yl)acetate | COCCOC=1C=CC(=NC1)CC(=O)OC | C11H15NO4
